* Top level spice file 

.option post=1
*.chkanode type=gate dv=0.5*pvdd report=active
.option parhier = local 
.option measform = 1
.option lis_new
.option post probe
.param pi = 3.141592653

*************************************** User defined functions ****************
.param V_meas(node, ref) = 'v(node) - v(ref)'

*************************************** cap model *****************************
.inc /data/home/jiangongwei/work/cap_models.hsp

***** current profiles
	*** NNE 
.param pwl_file_in_PA = str('./hspice_inc/curr_profile_NNE_4x2_PA_only_240325_scaleBy0p7143_addRampDown_flr6A_8us_RptRdy.txt.csv') *** 1/4 of PA, Brad trace 240325 4us, mag scaled by 0.7143 to match 240306 profile, steady state extended to show PMIC curr, copy ramp down from ramp up, No stall, repeatable 
.param pwl_file_in_MA = str('./hspice_inc/curr_profile_NNE_4x2_GMT_only_240325_8us_RptReady.txt.csv')		*** 1/4 of GMT, jgwei created to mockup ramp ==> steady state pwr 12A, len NO accommodate PA 8x3 clk stalling, repeatable
	*** CPUGPU
.param pwl_file_cpu2Core_x1p2  	= str('./hspice_inc/curr_profile_CPU_FSDB240327_SteadyStateX6_2Core_scale1p2_11us.txt.csv')	*** NOTE: 240327 Andes new profile, 2xcore only, scale by 1.2 to simulate pwr of 12 cores in 5 paritions, steady state duration x6
.param pwl_file_cpu2Core_DSU 	= str('./hspice_inc/curr_profile_CPU_FSDB240327_SteadyStateX6_DSU_2Core_11us.txt.csv')		*** NOTE: 240327 Andes new profile, 2xcore + DSU, steady state duration x6  
.param pwl_file_gpu_1Of4 		= str('./hspice_inc/curr_profile_GPGPU_1Of4_240603.txt.csv')		*** NOTE: 10W, 240603, GPGPU pwr profile from Verisilicon, steady state 10W, scaled to TT 105C by Adrian 
	*** SOC 
.param pwl_file_SOC = str('./hspice_inc/curr_profile_SOC_240912_Andes_dIdt_18A_100ns_8us.txt.csv')		*** 240912, Andes sign off profile 
	*** RSI 
.param pwl_file_RSI = str('./hspice_inc/curr_profile_RSI_Andes_profile_2p3A_70ns_240912.txt.csv')		*** 20240912 Andes sign off profile, 2.3A/70ns
	*** AO 
.param pwl_file_AO = str('./hspice_inc/curr_profile_AO_Andes_240912_0p24A_10ns.txt.csv')

		*** idle current
		.param pwl_file_quiet = str('./hspice_inc/curr_quiet_30us.txt.csv')
		
		
*** filter for measurement
.subckt meas_filter	
+ pin_in  ref_gnd 	hf  lf 

E_meas pin_meas ref_gnd  pin_in ref_gnd	1.0

C_hf pin_meas	hf  	160.p		
R_hf hf         ref_gnd 1k

R_lf pin_meas	lf		1k
C_lf lf 		ref_gnd	160.p
.ends meas_filter

***** die CPM model 
	*** NNE 
*** CPM w/o MIM 
.inc ./hspice_inc/cpm_nne_240724_modelOnly.sp		*** 4x8 parition 

*** CPM w/ MIM included 
.inc ./hspice_inc/Chip_Power_Model_SubCircuit_NNE_w_MIM_240920_modelOnly.sp		*** 4x8, w/ MIM, 140um
.inc ./hspice_inc/cpm_nne_w_MIM_240929_reduce_IdEM.cir	*** reduced model of "Chip_Power_Model_SubCircuit_NNE_w_MIM_240920_modelOnly"

	*** CPUGPU
.inc ./hspice_inc/cpm_cpu_3x4_240313.sp 	*** Andes CPM model 240313
.inc ./hspice_inc/Chip_Power_Model_SubCircuit_CPUGPU_w_MIM_240920_modelOnly.sp   *** Andes CPM 240923 for CPUGPU w/ MIM 140um
	
	*** SOC 
.inc ./hspice_inc/cpm_soc_modelOnly_240417.spice
.inc ./hspice_inc/cpm_SOC_240612_modelOnly.spice
	
	*** RSI 
.inc ./hspice_inc/cpm_rsi_modelOnly_240417.spice
	
	*** AO 
.inc ./hspice_inc/cpm_ao_modelOnly_240419.spice

***** pkg model 
.inc ./hspice_inc/Mam_MCM_L12_BH9_Ballv1p00_BPIv0090_20241008_2_CorePI_IdEM.cir
* .inc ./hspice_inc/Z_plot_NNE_pkg_ReduceModel_4x2_130um_241004_IdEM.cir		*** 241004 130um micro pkg, jgwei reduced model based on Andes pkg SIW, jgwei pingrps
* .inc ./hspice_inc/Z_plot_CPUGPU_pkg_ReduceModel_130um_241004_IdEM.cir	*** 241004, 130um reduced pkg model based on Andes SIW, jgwei pingrps
* .inc ./hspice_inc/Mam_MCM_L12_BH9_Ballv1p00_BPIv0090_20240930_35_senser40_SOC_jgwei_IdEM.cir	*** 241004 jgwei extracted model based on Andes SIW, jgwei pin
* .inc ./hspice_inc/lsio0617_RSI_IdEM.cir
* .inc ./hspice_inc/lsio0617_AO_IdEM.cir	



***** PCB model 
.inc ./hspice_inc/ACM3_HF_072424_corePDN_5rails_IdEM.cir

* .inc ./hspice_inc/ACM3_HF_20240730c_ebd_PSI_NNE_wAll_Caps_RLC.cir		*** 240903 Andes generated PCB model
* .inc ./hspice_inc/ACM3_HF_20240730c_ebd_PSI_CPU_wAll_Caps_RLC.cir		*** 240903, Andes generated PCB 
* .inc ./hspice_inc/ACM3_SOC_PDN_240613_BGAx13_220uFx4_22uFx9_47nFx6_10uF_IdEM.cir		*** 240829 based on Andes PCB caps	
* .inc ./hspice_inc/ACM3_HF_20240730c_ebd_PSI_RSI_wAll_Caps_RLC.cir		*** 240912, Andes generated PCB 
* .inc ./hspice_inc/ACM3_HF_20240730c_ebd_PSI_AO_wAll_Caps_RLCs.cir		*** 240912 Andes sign off generated 


***** 
.param Vdd_nne 	= 0.775
.param Vdd 	= 0.75

.param tStep	= 10.p
.param tStop	= 10.u   *200.u    

.param td_delay = 0.n
.param td_delay_grp0 = 0.u   *0.u
.param td_delay_grp1 = 0.u   *1.u
.param td_delay_grp2 = 0.u   *2.u
.param td_delay_grp3 = 0.u   *3.u	

.param PMIC_opt = 1				*** 1: ideal voltage src; 2:ideal voltage src w/ VCVS feedback; 3: voltage src using pwl 
.param volt_src = str('./hspice_inc/volt_profile_adi_240327_25us.txt.csv')		*** for PMIC delay test only 
.param Vdd_shift_fr_pwl = 0.0
*************************************** PMIC **********************************
*** ref_gnd def.
Vref_gnd 	ref_gnd		0	0.										*** normal gnd 

.subckt PMIC_model
+ pin_out ref_gnd fdbk_node opt = 1 vdd_pmic = 0.75 Vdd_shift= 0.0 t_delay = 0.n pwl_volt_in = str(volt_src)
	*** opt 1/3 ideal voltage src
		.if (opt == 1)
			VshortPMIC	pin_out	ref_gnd	vdd_pmic
		.endif 
	*** opt 2/3, add feedback
		.if (opt == 2)
			VshortPMIC_ref	pin_out_tmp	0 	vdd_pmic	*** ref contant voltage src 
			
			VshortPMIC	pin_out	pin_tmp	vdd_pmic
			E_fdbk	    pin_tmp	ref_gnd VCVS DELAY pin_out_tmp fdbk_node  TD=0.n			*** VCVS to model feedback using low freq signal 
		.endif 
	*** opt 3/3 voltage src waveform w/ shift 
		.if (opt == 3)
			Vpmic_wf     pin_out  pin_tmp  Vdd_shift					*** NOTE: shift waveform by constant voltage in V., use 0.0 if no shift 
			Vpmic_wf_pwl pin_tmp  ref_gnd PWL pwlfile = str(pwl_volt_in)   td = t_delay 
		.endif 
	*** 
.ends 

*** opt 1 ideal PMIC w/o remote sense feedback
.if ( 1 )
	xblk_PMIC_nne pmic_pwr_nne ref_gnd pkg_bump_PA_ns_3_lf PMIC_model 
	+ opt = 'PMIC_opt'  vdd_pmic = 'Vdd_nne' 	Vdd_shift = 'Vdd_shift_fr_pwl'		t_delay = 0.u 	pwl_volt_in = str(volt_src)		
	
	xblk_PMIC pmic_pwr ref_gnd pkg_bump_PA_ns_3_lf PMIC_model 
	+ opt = 'PMIC_opt'  vdd_pmic = 'Vdd' 	Vdd_shift = 'Vdd_shift_fr_pwl'		t_delay = 0.u 	pwl_volt_in = str(volt_src)		
.endif 


***** PCB 
Xblk_PCB_cpl
+ pmic_pwr
+ pmic_pwr
+ pmic_pwr_nne
+ pmic_pwr
+ pmic_pwr
+ bga_pcb_ao
+ bga_pcb_rsi
+ bga_pcb_cpu
+ bga_pcb_nne
+ bga_pcb_soc
+ ref_gnd
+ ACM3_HF_072424_corePDN_5rails_IdEM

					* *** NNE 
				* Xblk_PCB_nne		*** 240903 Andes generated model 
				* + bga_pcb_nne   * + bga_pcb_0 
				* + bga_pcb_nne   * + bga_pcb_1
				* + bga_pcb_nne   * + bga_pcb_2
				* + bga_pcb_nne   * + bga_pcb_3
				* + bga_pcb_nne   * + bga_pcb_4		
				* + bga_pcb_nne   * + bga_pcb_5
				* + pmic_pwr_nne
				* + pmic_pwr_nne
				* + pmic_pwr_nne
				* + pmic_pwr_nne
				* + ref_gnd
				* + ACM3_HF_20240730c_ebd_PSI_NNE_wAll_Caps_RLC

					* *** CPU 
				* Xblk_PCB_cpugpu
				* + bga_pcb_cpu        * + bga_pcb_north_col1   *** cpu 
				* + bga_pcb_cpu        * + bga_pcb_north_col0   *** gpu 
				* + bga_pcb_cpu        * + bga_pcb_south_col1   *** out_0
				* + bga_pcb_cpu        * + bga_pcb_south_col0   *** out_1
				* + pmic_pwr
				* + pmic_pwr
				* + ref_gnd
				* + ACM3_HF_20240730c_ebd_PSI_CPU_wAll_Caps_RLC
					
					* *** SOC 
				* Xblk_PCB_soc 
				* + pmic_pwr
				* + bga_pcb_soc  * + bga_pcb_soc_3
				* + bga_pcb_soc  * + bga_pcb_soc_3
				* + bga_pcb_soc  * + bga_pcb_soc_3
				* + bga_pcb_soc  * + bga_pcb_soc_3
				* + bga_pcb_soc  * + bga_pcb_soc_3
				* + bga_pcb_soc  * + bga_pcb_soc_3
				* + bga_pcb_soc  * + bga_pcb_soc_2
				* + bga_pcb_soc  * + bga_pcb_soc_1
				* + bga_pcb_soc  * + bga_pcb_soc_1
				* + bga_pcb_soc  * + bga_pcb_soc_1
				* + bga_pcb_soc  * + bga_pcb_soc_0
				* + bga_pcb_soc  * + bga_pcb_soc_0
				* + bga_pcb_soc  * + bga_pcb_soc_0
				* + ref_gnd 
				* + ACM3_SOC_PDN_240613_BGAx13_220uFx4_22uFx9_47nFx6_10uF_IdEM
					

					* *** RSI 
				* Xblk_PCB_rsi
				* + bga_pcb_rsi
				* + pmic_pwr
				* + pmic_pwr
				* + ref_gnd
				* + ACM3_HF_20240730c_ebd_PSI_RSI_wAll_Caps_RLC	*** 240912 Andes PCB 
					
					* *** AO 
				* Xblk_PCB_ao
				* + bga_pcb_ao 
				* + pmic_pwr
				* + ref_gnd
				* + ACM3_HF_20240730c_ebd_PSI_AO_wAll_Caps_RLCs

***** pkg 
Xblk_pkg_cpl
+ bga_pcb_ao
+ bga_pcb_cpu
+ bga_pcb_nne
+ bga_pcb_rsi
+ bga_pcb_soc
+ pkg_bump_PA_ns_3
+ pkg_bump_gpu_1_3
+ pkg_bump_PA_ns_2
+ pkg_bump_gpu_0_3
+ pkg_bump_PA_ns_1
+ pkg_bump_PA_ns_0
+ pkg_bump_cpu_2_2
+ pkg_bump_MA_ns_3
+ pkg_bump_gpu_1_2
+ pkg_bump_MA_ns_2
+ pkg_bump_gpu_0_2
+ pkg_bump_MA_ns_1
+ pkg_bump_MA_ns_0
+ pkg_bump_cpu_2_1
+ pkg_bump_cpu_1_1 
+ pkg_bump_cpu_0_1
+ pkg_bump_cpu_2_0
+ pkg_bump_cpu_1_0
+ pkg_bump_cpu_0_0
+ pkg_bump_ao
+ pkg_bump_rsi
+ pkg_bump_soc
+ ref_gnd
+ Mam_MCM_L12_BH9_Ballv1p00_BPIv0090_20241008_2_CorePI_IdEM

							* *** NNE 
						* Xblk_pkg
						* + pkg_bump_MA_ns_0
						* + pkg_bump_MA_ns_1
						* + pkg_bump_MA_ns_2
						* + pkg_bump_MA_ns_3
						* + pkg_bump_PA_ns_0
						* + pkg_bump_PA_ns_1
						* + pkg_bump_PA_ns_2
						* + pkg_bump_PA_ns_3	
						* + bga_pcb_0
						* + bga_pcb_1
						* + bga_pcb_2
						* + bga_pcb_3
						* + bga_pcb_4
						* + bga_pcb_5
						* + ref_gnd
						* + Z_plot_NNE_pkg_ReduceModel_4x2_130um_241004_IdEM

							* *** CPU 
						* Xblk_pkg
						* + pkg_bump_cpu_0_0 
						* + pkg_bump_cpu_1_0
						* + pkg_bump_cpu_2_0
						* + pkg_bump_cpu_0_1
						* + pkg_bump_cpu_1_1
						* + pkg_bump_cpu_2_1 
						* + pkg_bump_gpu_0_2
						* + pkg_bump_gpu_1_2
						* + pkg_bump_cpu_2_2
						* + pkg_bump_gpu_0_3
						* + pkg_bump_gpu_1_3	
						* + bga_pcb_north_col1   *** cpu 
						* + bga_pcb_north_col0   *** gpu 
						* + bga_pcb_south_col1   *** out_0
						* + bga_pcb_south_col0   *** out_1
						* + ref_gnd
						* + Z_plot_CPUGPU_pkg_ReduceModel_130um_241004_IdEM

							* *** SOC 
						* Xblk_pkg	*** 241004 130um jgwei extraction based on Andes SIW, jgwei pingrp 
						* + bga_pcb_soc_3
						* + bga_pcb_soc_3
						* + bga_pcb_soc_3
						* + bga_pcb_soc_2
						* + bga_pcb_soc_1
						* + bga_pcb_soc_1
						* + bga_pcb_soc_0
						* + pkg_bump_soc
						* + pkg_bump_soc
						* + pkg_bump_soc
						* + pkg_bump_soc
						* + pkg_bump_soc
						* + pkg_bump_soc
						* + pkg_bump_soc
						* + pkg_bump_soc
						* + pkg_bump_soc
						* + pkg_bump_soc
						* + pkg_bump_soc
						* + pkg_bump_soc
						* + pkg_bump_soc
						* + ref_gnd
						* + Mam_MCM_L12_BH9_Ballv1p00_BPIv0090_20240930_35_senser40_SOC_jgwei_IdEM

							* *** RSI 
						* Xblk_pkg
						* + pkg_bump_rsi
						* + bga_pcb_rsi
						* + ref_gnd
						* + lsio0617_RSI_IdEM

							* *** AO 
						* Xblk_pkg
						* + pkg_bump_ao
						* + bga_pcb_ao
						* + ref_gnd
						* + lsio0617_AO_IdEM

***** die & profile 
	*** NNE 
xblk_die_nne 	*** 4x8 NNE CPM, w/o CPM , Andes 240821 sign off 
+         pkg_bump_MA_ns_0
+ ref_gnd pkg_bump_MA_ns_1
+ ref_gnd pkg_bump_MA_ns_2
+ ref_gnd pkg_bump_MA_ns_3	
+ ref_gnd pkg_bump_MA_ns_0
+ ref_gnd pkg_bump_MA_ns_1
+ ref_gnd pkg_bump_MA_ns_2
+ ref_gnd pkg_bump_MA_ns_3	
+ ref_gnd pkg_bump_MA_ns_0
+ ref_gnd pkg_bump_MA_ns_1
+ ref_gnd pkg_bump_MA_ns_2
+ ref_gnd pkg_bump_MA_ns_3	
+ ref_gnd pkg_bump_MA_ns_0
+ ref_gnd pkg_bump_MA_ns_1
+ ref_gnd pkg_bump_MA_ns_2
+ ref_gnd pkg_bump_MA_ns_3	
+ ref_gnd pkg_bump_PA_ns_0
+ ref_gnd pkg_bump_PA_ns_1
+ ref_gnd pkg_bump_PA_ns_2
+ ref_gnd pkg_bump_PA_ns_3		
+ ref_gnd pkg_bump_PA_ns_0
+ ref_gnd pkg_bump_PA_ns_1
+ ref_gnd pkg_bump_PA_ns_2
+ ref_gnd pkg_bump_PA_ns_3	
+ ref_gnd pkg_bump_PA_ns_0
+ ref_gnd pkg_bump_PA_ns_1
+ ref_gnd pkg_bump_PA_ns_2
+ ref_gnd pkg_bump_PA_ns_3	
+ ref_gnd pkg_bump_PA_ns_0
+ ref_gnd pkg_bump_PA_ns_1
+ ref_gnd pkg_bump_PA_ns_2
+ ref_gnd pkg_bump_PA_ns_3
+ ref_gnd
+ adsPowerModel_nne_240724

* IcurrSrc_0_3	pkg_bump_MA_ns_3	ref_gnd	PWL  pwlfile = str(pwl_file_in_MA)  td= td_delay_grp3   R 	*** add 'R' if repeat
* IcurrSrc_0_2	pkg_bump_MA_ns_2	ref_gnd	PWL  pwlfile = str(pwl_file_in_MA)  td= td_delay_grp2   R 
* IcurrSrc_0_1	pkg_bump_MA_ns_1	ref_gnd	PWL  pwlfile = str(pwl_file_in_MA)  td= td_delay_grp1   R
* IcurrSrc_0_0	pkg_bump_MA_ns_0	ref_gnd	PWL  pwlfile = str(pwl_file_in_MA)  td= td_delay_grp0   R

* IcurrSrc_1_3	pkg_bump_PA_ns_3	ref_gnd	PWL  pwlfile = str(pwl_file_in_PA)  td= td_delay_grp3   R 
* IcurrSrc_1_2	pkg_bump_PA_ns_2	ref_gnd	PWL  pwlfile = str(pwl_file_in_PA)  td= td_delay_grp2   R
* IcurrSrc_1_1	pkg_bump_PA_ns_1	ref_gnd	PWL  pwlfile = str(pwl_file_in_PA)  td= td_delay_grp1   R 
* IcurrSrc_1_0	pkg_bump_PA_ns_0	ref_gnd	PWL  pwlfile = str(pwl_file_in_PA)  td= td_delay_grp0   R

	*** CPU 
xblk_die_cpugpu
+ 			pkg_bump_cpu_0_0
+ ref_gnd	pkg_bump_cpu_1_0
+ ref_gnd 	pkg_bump_cpu_2_0
+ ref_gnd	pkg_bump_cpu_0_1
+ ref_gnd	pkg_bump_cpu_1_1 
+ ref_gnd	pkg_bump_cpu_2_1
+ ref_gnd	pkg_bump_gpu_0_2
+ ref_gnd	pkg_bump_gpu_1_2
+ ref_gnd	pkg_bump_cpu_2_2
+ ref_gnd	pkg_bump_gpu_0_3
+ ref_gnd	pkg_bump_gpu_1_3
+ ref_gnd 
+ adsPowerModel_cpu

IcurrSrc_cpu_2_1	pkg_bump_cpu_2_1	ref_gnd	PWL  pwlfile = str(pwl_file_cpu2Core_DSU)		  R   td = 0.n   *0.n	
r_short_2_1_and_2_2 pkg_bump_cpu_2_2	pkg_bump_cpu_2_1	1.n                                            
IcurrSrc_cpu_2_0	pkg_bump_cpu_2_0	ref_gnd	PWL  pwlfile = str(pwl_file_cpu2Core_x1p2)		  R   td = 0.n   *12.n 
																											
IcurrSrc_cpu_1_1	pkg_bump_cpu_1_1	ref_gnd	PWL  pwlfile = str(pwl_file_cpu2Core_x1p2)		  R   td = 0.n   *24.n 
IcurrSrc_cpu_1_0	pkg_bump_cpu_1_0	ref_gnd	PWL  pwlfile = str(pwl_file_cpu2Core_x1p2)		  R   td = 0.n   *36.n 
																											
IcurrSrc_cpu_0_1	pkg_bump_cpu_0_1	ref_gnd	PWL  pwlfile = str(pwl_file_cpu2Core_x1p2)		  R   td = 0.n   *48.n 
IcurrSrc_cpu_0_0	pkg_bump_cpu_0_0	ref_gnd	PWL  pwlfile = str(pwl_file_cpu2Core_x1p2)		  R   td = 0.n   *60.n 
																											
IcurrSrc_gpu_1_3	pkg_bump_gpu_1_3	ref_gnd	PWL  pwlfile = str(pwl_file_gpu_1Of4)		      R   td = 0.n   *100.n
IcurrSrc_gpu_1_2	pkg_bump_gpu_1_2	ref_gnd	PWL  pwlfile = str(pwl_file_gpu_1Of4)		      R   td = 0.n   *100.n
IcurrSrc_gpu_0_3	pkg_bump_gpu_0_3	ref_gnd	PWL  pwlfile = str(pwl_file_gpu_1Of4)		      R   td = 0.n   *100.n
IcurrSrc_gpu_0_2	pkg_bump_gpu_0_2	ref_gnd	PWL  pwlfile = str(pwl_file_gpu_1Of4)		      R   td = 0.n   *100.n
	
	*** SOC 
Xblk_die_soc  
+ pkg_bump_soc
+ ref_gnd
+ adsPowerModel_SOC

IcurrSrc_SOC	pkg_bump_soc	ref_gnd	PWL  pwlfile = str(pwl_file_SOC)  R * td= 0.   
	
	*** RSI 
Xblk_die_rsi 
+ pkg_bump_rsi
+ ref_gnd
+ adsPowerModel_RSI

* IcurrSrc_RSI	pkg_bump_rsi	ref_gnd	PWL  pwlfile = str(pwl_file_RSI)  R * td= 0.
	
	*** AO 
Xblk_die_ao 
+ pkg_bump_ao
+ ref_gnd
+ adsPowerModel_AO

* IcurrSrc_AO	pkg_bump_ao	ref_gnd	PWL  pwlfile = str(pwl_file_AO)  R * td= 0.   
	
*************************************** Analysis II: Transient simulation *****

.tran tStep tSTOP 

.probe tran v(pkg_bump_PA_ns_3)   v(pkg_bump_cpu_0_0)
.probe tran v(pkg_bump_soc)  v(pkg_bump_rsi) 	v(pkg_bump_ao)


